US08809389B2
c) Synthesis of 6-(but-2-ynyloxy)-5-propyl-2,3-dihydrobenzofuran
Following the same procedure as in Example 3 c), a mixture of 5.0 g (0.026 moles) of 5-propyl-6-hydroxy-2,3-dihydrobenzofuran (title 93.5%), 3.9 g (0.028 moles) of anhydrous potassium carbonate in ml 30 of acetone was added with 3.7 g (0.028 moles) of 1-bromo-2-butyne: the mixture was heated to reflux for 6 hrs. After cooling to room temperature, the mixture was filtered and the filtrate evaporated u.v (20° C./21 mbar). The residue so obtained was purified by chromatography on silica column (eluant n-hexane/ethyl acetate 3/1 (v/v)). A liquid product (3.8 g, purity 96%) was obtained, whose NMR and MS analyses corresponded to those of the aforementioned compound.

reactant | 5-propyl-6-hydroxy-2,3-dihydrobenzofuran | 0.026 moles, 5.0 g | C(CC)C=1C(=CC2=C(CCO2)C1)O | C11H14O2
reactant | potassium carbonate | 0.028 moles, 3.9 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-bromo-2-butyne | 0.028 moles, 3.7 g | BrCC#CC | C4H5Br
solvent | acetone | CC(=O)C | C3H6O
product | 6-(but-2-ynyloxy)-5-propyl-2,3-dihydrobenzofuran | C(C#CC)OC1=CC2=C(CCO2)C=C1CCC | C15H18O2
